US06846827B1
4-[5-(3-Fluoro-5-morpholinobenzamido)-2-methylanilino]-2-hydroxypyrimidine
A mixture of 2-chloro-4-[5-(3-fluoro-5-morpholinobenzamido)-2-methylanilino]pyrimidine (0.1 g) and formic acid (1.0 ml) was stirred and heated to 65° C. for 16 hours. The mixture was allowed to cool to ambient temperature and was poured into a dilute aqueous ammonium hydroxide solution. The resultant precipitate was isolated and washed with anhydrous diethyl ether. There was thus obtained the title compound (0.09 g); NMR Spectrum: (DMSOd6) 2.14 (s, 3H), 3.2 (m, 4H), 3.73 (m, 4H), 5.70 (br m, 1H), 6.95 (m, 1H), 7.09 (m, 1H), 7.19 (m, 1H), 7.25 (s, 1H), 7.4 (m, 1H), 7.5 (m, 1H), 7.68 (m, 1H), 10.14 (s, 1H), 10.5 (broad s, 1H); Mass Spectrum: M+H+ 424.

reactant | 2-chloro-4-[5-(3-fluoro-5-morpholinobenzamido)-2-methylanilino]pyrimidine | 0.1 g | ClC1=NC=CC(=N1)NC1=C(C=CC(=C1)NC(C1=CC(=CC(=C1)N1CCOCC1)F)=O)C | C22H21ClFN5O2
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | formic acid | 1.0 ml | C(=O)O | CH2O2
product | 4-[5-(3-Fluoro-5-morpholinobenzamido)-2-methylanilino]-2-hydroxypyrimidine | FC=1C=C(C(=O)NC=2C=CC(=C(NC3=NC(=NC=C3)O)C2)C)C=C(C1)N1CCOCC1 | C22H22FN5O3
